US06174889B1
4-Chloro-6-(5-methyl-1,3,4-oxadiazol-2-yl)-pyrido[3,4-d]pyrimidine
6-(5-Methyl-1,3,4-oxadiazol-2-yl)-pyrido[3,4-d]pyrimidin-4-one (0.5 g) was treated with phosphorus oxychloride at room temperature under N2. After 1 hour at room temperature and 1 hour at 50° C., the mixture was concentrated in vacuo, azeotroping with toluene, then taken up in ethyl acetate, washed with sodium bicarbonate solution, dried and concentrated in vacuo to give the title compound (0.17 g) as an orange solid; δH CDCl3 9.68 (1H,s), 9.30 (1H,s), 8.96 (1H,s), 2.75 (3H,s); m/z (M+1+)248.

reactant | 6-(5-Methyl-1,3,4-oxadiazol-2-yl)-pyrido[3,4-d]pyrimidin-4-one | 0.5 g | CC1=NN=C(O1)C1=CC2=C(N=CNC2=O)C=N1 | C10H7N5O2
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-6-(5-methyl-1,3,4-oxadiazol-2-yl)-pyrido[3,4-d]pyrimidine | 0.17 g | ClC=1C2=C(N=CN1)C=NC(=C2)C=2OC(=NN2)C | C10H6ClN5O
